US04012367
35.0 Parts of benzyloxycarbonyl-D-alanine n-propylamide is dissolved in ethanol. Then, palladium black catalyst is added and the mixture is shaken at about 60 psi at room temperature for several hours or until one molecular equivalent of hydrogen has been absorbed. The catalyst is removed by filtration, and the resulting solution is decolorized with charcoal. Removal of the solvents under reduced pressure affords, as an oil, D-alanine n-propylamide.

reactant | benzyloxycarbonyl-D-alanine n-propylamide | C(CC)NC([C@H](NC(=O)OCC1=CC=CC=C1)C)=O | C14H20N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | D-alanine n-propylamide | C(CC)NC([C@H](N)C)=O | C6H14N2O
